US07442805B2
Ethyl 1-benzyl-5-nitro-1H,1′H-3,5′-biindole-2-carboxylate was prepared from ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate and indole-5-boronic acid followed the procedure of Example 17 Step 2 as a yellowish solid: 1H NMR (DMSO-d6) δ 0.90 (t, J=7.1 Hz, 3H, 4.10 (q, J=7.1 Hz, 2H, 5.89 (s, 2H, 6.52 (t, J=1.1 Hz, 1H, 7.11 (d, J=8.4 Hz, 2H, 7.20 (dd, J=8.3, 1.7 Hz, 1H, 7.22-7.35 (m, 3H, 7.42 (t, J=2.7 Hz, 1H, 7.52 (d, J=8.4 Hz, 1H, 7.66 (s, 1H, 7.90 (d, J=9.3 Hz, 1H, 8.21 (dd, J=9.2, 2.2 Hz, 1H, 8.40 (d, J=2.2 Hz, 1H, 11.23 (s, 1H; MS (ESI) m/z 440 (MH+); MS (ESI) m/z 438 [M-H]−; HRMS calcd for C26H22N3O4: 440.1608; found (ESI+): 440.1596; Anal. calcd for C26H21N3O4.0.25H2O: C, 70.34; H, 4.88; N, 9.47. Found: C, 70.23; H, 4.89; N, 9.58.

reactant | ethyl 1-benzyl-3-bromo-5-nitro-1H-indole-2-carboxylate | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])Br)C(=O)OCC | C18H15BrN2O4
reactant | indole-5-boronic acid | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
product | Ethyl 1-benzyl-5-nitro-1H,1′H-3,5′-biindole-2-carboxylate | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C=1C=C2C=CNC2=CC1)C(=O)OCC | C26H21N3O4
